US04661607
A mixture of 4-allyl-3-hydroxy-2-methyl-9-oxo-9H-xanthene (12 g), m-chloroperbenzoic acid (12 g) and chloroform (700 ml) was stirred at room temperature for 5 hours and thereafter left to stand overnight. To the mixture, 20 g of potassium carbonate and 400 ml of water were added and the resulting mixture was extracted with chloroform. The chloroform layer was dried and the solvent was distilled off. The residue was dissolved in acetone (2,000 ml) and, to the stirred solution, a mixture of chromium trioxide (34 g), water (70 ml) and concentrated sulfuric acid (30 ml) was added dropwise at room temperature. After standing overnight, the mixture was filtered and the filtrate was evaporated to dryness under vacuum. After addition of water, the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from a mixed solvent of ethanol and DMF gave 8.7 g of 1,2-dihydro-4-methyl-6-oxo-6H-furo[2,3-c]xanthene-2-carboxylic acid. m.p. 292°-295° C. This compound produced a mass spectrum having a molecular ion peak at m/e 296.

reactant | 4-allyl-3-hydroxy-2-methyl-9-oxo-9H-xanthene | 12 g | C(C=C)C1=C(C(=CC=2C(C3=CC=CC=C3OC12)=O)C)O | C17H14O3
reactant | m-chloroperbenzoic acid | 12 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 400 ml | O | H2O
product | 1,2-dihydro-4-methyl-6-oxo-6H-furo[2,3-c]xanthene-2-carboxylic acid | 8.7 g | CC1=CC=2C(C=3C=CC=CC3OC2C2=C1OC(C2)C(=O)O)=O | C17H12O5
